US05532236
d. 5-Hydroxy-8-(1H-imidazol-1-yl)-1-thioxo-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one
A solution of 1.38 g (3 mmol) of 5-benzyloxy-8-(1H-imidazol-1-yl)-1-thioxo-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one in 20 ml of conc. sulfuric acid was stirred at room temperature for 20 min., and poured into 200 ml of ice-water. The stirred mixture was adjusted to pH 5-6 by cautious addition of solid sodium hydroxide at 0° C. Extraction with ethyl acetate (5×100 ml) gave 270 mg (25%) of the title compound.

reactant | 5-benzyloxy-8-(1H-imidazol-1-yl)-1-thioxo-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 3 mmol, 1.38 g | C(C1=CC=CC=C1)ON1C(C=2N(C3=CC(=C(C=C13)C(F)(F)F)N1C=NC=C1)C(NN2)=S)=O | C20H13F3N6O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Hydroxy-8-(1H-imidazol-1-yl)-1-thioxo-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 270 mg, 25% | ON1C(C=2N(C3=CC(=C(C=C13)C(F)(F)F)N1C=NC=C1)C(NN2)=S)=O | C13H7F3N6O2S
